US06492393B1
(Method H): Synthesis of 5-tert-butyl-2-(1H-pyrazol-4-yl)aniline
A mixture of 4-(4-t-butyl-2-nitrophenyl)pyrazole (0.27 mmol), 10% Pd/C (0.2 eq by weight of nitro compound) and NH4CO2H (2.7 mmol) in ethanol (3 mL) was stirred for 30 min and filtered through a bed of diatomaceous earth. The filtrate was concentrated under reduced pressure and the residue dissolved in water. The solid was filtered, washed with water and dried to give the product (54 mg, 93%).

reactant | 4-(4-t-butyl-2-nitrophenyl)pyrazole | 0.27 mmol | C(C)(C)(C)C1=CC(=C(C=C1)C=1C=NNC1)[N+](=O)[O-] | C13H15N3O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.2 eq | [Pd] | Pd
product | 5-tert-butyl-2-(1H-pyrazol-4-yl)aniline | 54 mg, 93% | C(C)(C)(C)C=1C=CC(=C(N)C1)C=1C=NNC1 | C13H17N3
